US06849636B2
5-{4-[5-(2-Chloro-4-methoxyphenyl)-1,3,4-oxadiazol-2-yl]bicyclo[2.2.2]oct-1-yl}pentan-2-one (5-H) (0.150 g, 0.373 mmol) was stirred in methanol (5 mL) at 0° C. Sodium borohydride (0.0169 g, 0.448 mmol) was added. The reaction was allowed to stir to room temperature. The mixture was then layered with ethyl acetate (20 mL) and water (20 mL). The ethyl acetate layer was extracted and dried (MgSO4). Solvent was removed in vacuo to afford 5-{4-[5-(2-chloro-4-methoxyphenyl)-1,3,4-oxadiazol-2-yl]bicyclo[2.2.2]oct-1-yl}pentan-2-ol (5-I).

reactant | 5-{4-[5-(2-Chloro-4-methoxyphenyl)-1,3,4-oxadiazol-2-yl]bicyclo[2.2.2]oct-1-yl}pentan-2-one | 0.373 mmol, 0.150 g | ClC1=C(C=CC(=C1)OC)C1=NN=C(O1)C12CCC(CC1)(CC2)CCCC(C)=O | C22H27ClN2O3
reactant | Sodium borohydride | 0.448 mmol, 0.0169 g | [BH4-].[Na+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 20 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 5-{4-[5-(2-chloro-4-methoxyphenyl)-1,3,4-oxadiazol-2-yl]bicyclo[2.2.2]oct-1-yl}pentan-2-ol | ClC1=C(C=CC(=C1)OC)C1=NN=C(O1)C12CCC(CC1)(CC2)CCCC(C)O | C22H29ClN2O3
